US03951993
Upon boiling a solution of 8.8 g of 2,4-dichlorobenzaldehyde and 15.9 g of 3-amino-3-ethoxyacrylic acid ethyl ester in 50 ml of alcohol for 6 hours, 2-amino-4-(2,4-dichlorophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 98°C (ethyl acetate/petroleum ether) is obtained.

reactant | 2,4-dichlorobenzaldehyde | 8.8 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | 3-amino-3-ethoxyacrylic acid ethyl ester | 15.9 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
product | 2-amino-4-(2,4-dichlorophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(N=C(C(C1C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC)OCC)N | C19H22Cl2N2O5
